US07307076B2
b) 5-{2-[2-(2,4-difluoro-phenyl)-1,1-dimethyl-ethylamino]-1-hydroxy-ethyl}-8-hydroxy-3,4-dihydro-1H-quinolin-2-one
A solution of 220 mg (0.5 mmol) 8-benzyloxy-5-{2-[2-(2,4-difluoro-phenyl)-1,1-dimethyl-ethylamino]-1-hydroxy-ethyl}-1H-quinolin-2-one in 10 mL methanol is hydrogenated in the presence of palladium on charcoal at ambient temperature and normal pressure. Then the catalyst is separated off, the filtrate is evaporated down and the residue is chromatographed (reverse phase; water/acetonitrile gradient).

reactant | 8-benzyloxy-5-{2-[2-(2,4-difluoro-phenyl)-1,1-dimethyl-ethylamino]-1-hydroxy-ethyl}-1H-quinolin-2-one | 0.5 mmol, 220 mg | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)C(CNC(CC1=C(C=C(C=C1)F)F)(C)C)O | C28H28F2N2O3
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 5-{2-[2-(2,4-difluoro-phenyl)-1,1-dimethyl-ethylamino]-1-hydroxy-ethyl}-8-hydroxy-3,4-dihydro-1H-quinolin-2-one | FC1=C(C=CC(=C1)F)CC(C)(C)NCC(O)C1=C2CCC(NC2=C(C=C1)O)=O | C21H24F2N2O3
